US05223498
Reaction of 6-methyl-2-morpholinophenyl isothiocyanate (8.8 g) with 33% alcoholic ammonia solution (60 ml) at room temperature for 5 hours gave 1-(6-methyl-2-morpholinophenyl)thiourea (9 g) as a pale yellow solid, m.p. 199° C. which was recrystallised from a 1:1 mixture of ethylacetate and hexane.

reactant | 6-methyl-2-morpholinophenyl isothiocyanate | 8.8 g | CC1=CC=CC(=C1N=C=S)N1CCOCC1 | C12H14N2OS
reactant | ammonia | 60 ml | N | H3N
product | 1-(6-methyl-2-morpholinophenyl)thiourea | 9 g | CC1=CC=CC(=C1NC(=S)N)N1CCOCC1 | C12H17N3OS
